Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clarithromycin
 
Attending: ___.
 
Chief Complaint:
epigastric pain, fever
 
Major Surgical or Invasive Procedure:
ERCP on ___ with removal of sludge and sphincterotomy. 

 
History of Present Illness:
Ms. ___ is a ___ female with history Paget's 
disease of the bone and prior cholecystitis and biliary 
obstruction s/p cholecystectomy and prior biliary stent 
placement who presents with several days of worsening epigastric 
pain, fevers and N/V found to have evidence of biliary 
obstruction and biliary stent migration at OSH so transferred 
here for ERCP eval. 

For the last month, she reports she has had 3 or 4 episodes of 
abdominal pain following eating. Prior episodes were relieved by 
emesis. However, last night after dinner she developed pain and 
was unable to throw up and had continued ___ pain thus 
presented to ___. She also notes recent subjective fevers 
at home and decreased oral intake over the past 2 days. she 
underwent cholecystectomy ___ years ago, but also required stent 
placement at the time. Seen again in follow up for stent pull 
but they ended up replacing stent and she was told it didn't 
require follow up that it would just go away on its own. She 
hasn't seen surgery or ERCP since and hasn't had any episodes of 
similar abdominal pain or biliary obstruction until now.

She presented to ___ this morning where a CT 
demonstrated a dilated CBD with stent migration so she was 
transferred to ___ ED for additional care. Here, she states 
pain is better due to prior pain meds at ___. On ROS she 
denies new HA, dizziness, no N/V, CP, SOB, back pain, flank 
pain, change in bowel or bladder function. She notes a history 
of severe hypotension after anesthesia. 
 
Past Medical History:
PAGET'S DISEASE 
OSTEOPOROSIS 
FIBROCYSTIC CHANGES IN BREAST 
*S/P CHOLECYSTECTOMY 
H/O ANEMIA 
H/O ORTHOPEDIC 
H/O CHOLELITHIASIS 
 
Surgical History
CHOLECYSTECTOMY 
 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
ADMISSION: 
=========
VS: Temp: 98.7 PO BP: 124/69 HR: 78 RR: 20 O2 sat: 97% O2
delivery: RA   
Gen - NAD, well-appearing 
Eyes - PERRLA
ENT - slightly dry MM
Heart - RRR
Lungs - CTAB, breathing nonlabored
Abd - soft, minimally tender in mid-epigastrium, no rebound or
guarding
Ext - no pedal edema
Skin - no obvious skin breakdown
Vasc - WWP
Neuro - A&Ox4, no focal sensori-motor deficits
Psych - pleasant, calm, cooperative

DISCHARGE: 
=========
Temp: 98.4 PO BP: 114/66 HR: 61 RR: 18 O2 sat: 96% O2 delivery: 
RA 

Gen: pleasant woman resting comfortably in bed, NAD
HEENT: anicteric sclera, OP clear. 
Pulm: CTAB
Card: RRR, no m/r/g
Abd: nondistend, soft, nontender throughout.
Ext: well perfused, no edema
Neuro: no facial droop, moving all 4 extremities with purpose

 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
========================
___ 04:13PM BLOOD WBC-12.1* RBC-3.78* Hgb-10.6* Hct-33.6* 
MCV-89 MCH-28.0 MCHC-31.5* RDW-14.0 RDWSD-44.9 Plt ___
___ 04:13PM BLOOD Neuts-88.7* Lymphs-5.3* Monos-5.3 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-10.77* AbsLymp-0.64* 
AbsMono-0.64 AbsEos-0.00* AbsBaso-0.01
___ 04:13PM BLOOD ___ PTT-26.3 ___
___ 04:13PM BLOOD Glucose-131* UreaN-9 Creat-0.8 Na-137 
K-4.2 Cl-105 HCO3-22 AnGap-10

LFT trend: 
----------
___ 04:13PM BLOOD ALT-227* AST-162* AlkPhos-345* 
TotBili-4.8*
___ 06:35AM BLOOD ALT-166* AST-96* LD(LDH)-172 AlkPhos-271* 
TotBili-4.9*
___ 05:05AM BLOOD ALT-118* AST-52* AlkPhos-225* 
TotBili-2.6*

MICRO:
=====
___ blood Cx (no growth at time of discharge)

IMAGING/OTHER STUDIES: 
====================

___ KUB
IMPRESSION: 
Image findings consistent with passage of a biliary stent into 
the bowel.

___ ERCP (full report available on request)
Notable for sludge in CBD, balloon sweep and sphincterotomy 
performed. 

LABS AT DISCHARGE: 
=================
___ 12:45PM BLOOD WBC-5.2 RBC-3.08* Hgb-8.6* Hct-26.8* 
MCV-87 MCH-27.9 MCHC-32.1 RDW-13.8 RDWSD-43.3 Plt ___
___ 05:05AM BLOOD Glucose-106* UreaN-18 Creat-0.8 Na-140 
K-4.4 Cl-106 HCO3-26 AnGap-8*
 
Brief Hospital Course:
Ms. ___ is a ___ female with history Paget's 
disease of the bone and prior cholecystitis and biliary 
obstruction s/p cholecystectomy and prior biliary stent 
placement who presents with several days of worsening epigastric 
pain, fevers and N/V found to have evidence of biliary 
obstruction and biliary stent migration at OSH so transferred 
here for ERCP eval. 

#Cholangitis:  
#Dislodged biliary stent: 
Presented with several days of worsening epigastric pain, fevers 
and N/V. Labs demonstrating cholestasic LFT derangement. 
Labs demonstrating cholestastatic LFT pattern. Underwent ERCP on 
___ with balloon sweep of pus and sphincterotomy. No stent 
observed. KUB obtained and noted to migrate into large bowel. 
Patient should pass via stool. Patient tolerated advancement of 
diet and LFTs downtrending. Discharged to complete 5d of 
cipro/flagyl. 

# Normocytic Anemia: 
Hg 10.6 on admission with decrease to 8.6 following aggressive 
fluid given for cholangitis. Iron studies essentially normal. No 
concern for active bleed. C-scope in ___ wnl. Further workup as 
outpatient as clinically indicated. Suspect mild MDS. 

CHRONIC/STABLE PROBLEMS:
#Paget's disease of bone #Osteoporosis -continue home vitD and 
calcium.

TRANSITIONAL ISSUES: 
=================
[ ] discharged on cipro/flagyl to complete 5d course ending ___
[ ] recommend repeat LFTs at f/u to ensure ongoing 
improvement/normalization
[ ] recommend repeat CBC at f/u; further workup of normocytic 
anemia per PCP ___. 

> 30 mins spent on coordination of discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral TID 
2. Vitamin D ___ UNIT PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*7 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*10 Tablet Refills:*0 
3.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral TID  
4.  Ferrous Sulfate 325 mg PO DAILY  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a priviliege to care for you at the ___ 
___. You were admitted for abdominal pain secondary 
to an infection of your biliary duct system. You had a procedure 
called an ERCP with removal of "sludge." It was noted that your 
prior stent had migrated to your bowel. This is not dangerous 
and should pass naturally in your stool over the next several 
days. 

Please continue to take all medications as prescribed, 
particularly the antibiotics, and follow up with all 
appointments as detailed below. 

We wish you the best! 

Sincerely,
Your ___ team 

 
Followup Instructions:
___